US06172085B2
4-[(9-Fluorenyl)oxy]piperidine
Using 9-fluorenol and 4-piperidinol, the procedure of Reference Example 23 was otherwise repeated to provide the title compound. Yield 38%.

reactant | 9-fluorenol | C1=CC=CC=2C3=CC=CC=C3C(C12)O | C13H10O
reactant | 4-piperidinol | N1CCC(CC1)O | C5H11NO
product | 4-[(9-Fluorenyl)oxy]piperidine | Yield 38% | C1=CC=CC=2C3=CC=CC=C3C(C12)OC1CCNCC1 | C18H19NO
